US09085534B2
Preparation 89A: 6-(2-phenylethoxy)-1,2,3,4-tetrahydronaphthalen-1-one
To a solution of 6-hydroxy-3,4-dihydro-1(2H)-naphthalenone (2.0 g, 12.3 mmol) and (2-bromoethyl)benzene (4.8 g, 25.8 mmol) in ACN (20 mL) was added potassium carbonate (3.4 g, 24.6 mmol) at rt. The solution was heated at reflux overnight. The reaction was filtered, concentrated, and purified by silica gel chromatography (PE/EtOAc/DCM=10:1:2) to give 2.0 g (61%) of the title compound as a brown oil. 1H NMR (300 MHz, CDCl3): δ 2.08-2.16 (2H, m), 2.62 (2H, t, J=6.3 Hz), 2.92 (2H, t, J=6.3 Hz), 3.13 (2H, t, J=7.2 Hz), 2.92 (2H, t, J=7.2 Hz), 6.71 (1H, d, J=2.1 Hz), 6.83 (1H, dd, J=2.4, 8.7 Hz), 7.27-7.38 (5H, m), 8.01 (1H, dd, J=8.7 Hz).

reactant | 6-hydroxy-3,4-dihydro-1(2H)-naphthalenone | 12.3 mmol, 2.0 g | OC=1C=C2CCCC(C2=CC1)=O | C10H10O2
reactant | (2-bromoethyl)benzene | 25.8 mmol, 4.8 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | potassium carbonate | 24.6 mmol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ACN | 20 mL | C(C)#N | C2H3N
product | 6-(2-phenylethoxy)-1,2,3,4-tetrahydronaphthalen-1-one | 2.0 g, 61% | C1(=CC=CC=C1)CCOC=1C=C2CCCC(C2=CC1)=O | C18H18O2
